US07307086B2
4-Hydroxy-4-(1,3-thiazol-2-yl)cyclohexanone
A solution of 8-(1,3-thiazol-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol (1.0 g, 4.14 mmol) in 20 mL of THF/3 N HCl (1:1) was stirred for 1 h at 50° C. After cooling to room temperature, the mixture was treated with Na2CO3 to pH 8 and extracted with EtOAc three times. The combined organic layers were washed with saturated NaCl solution, dried (MgSO4), and concentrated to give 0.80 g (98%) of the title compound. MS (M+H)+=198.2.

reactant | 8-(1,3-thiazol-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 4.14 mmol, 1.0 g | S1C(=NC=C1)C1(CCC2(OCCO2)CC1)O | C11H15NO3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 3 N, 20 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-4-(1,3-thiazol-2-yl)cyclohexanone | 0.80 g, 98% | OC1(CCC(CC1)=O)C=1SC=CN1 | C9H11NO2S
